US04209516
N-isopropyl-1-[2-(o-fluorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide;
from the base liberated from 23.8 g (0.050 mole) of 1-[[6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepin-2-yl]-carbonyl]-4-methylpiperazine hydrochloride: -1-[[1-[2-(o-fluorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazol-3-yl]-carbonyl]-4-methylpiperazine and the dihydrochloride thereof.

reactant | 1-[[6-(o-fluorophenyl)-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepin-2-yl]-carbonyl]-4-methylpiperazine hydrochloride | 0.050 mole, 23.8 g | Cl.FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)N=C(N2)C(=O)N2CCN(CC2)C
reactant | 1-[[1-[2-(o-fluorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazol-3-yl]-carbonyl]-4-methylpiperazine | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)N2N=C(N=C2CN(C)C)C(=O)N2CCN(CC2)C)C=CC=C1 | C24H26ClFN6O2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | N-isopropyl-1-[2-(o-fluorobenzoyl)-4-chlorophenyl]-5-[(dimethylamino)-methyl]-1H-1,2,4-triazole-3-carboxamide | C(C)(C)NC(=O)C1=NN(C(=N1)CN(C)C)C1=C(C=C(C=C1)Cl)C(C1=C(C=CC=C1)F)=O | C22H23ClFN5O2
